US05466598
500 g of the above-obtained wet preparation of cells is suspended in 50 mM phosphate buffer (pH7.0) containing 15% ethylene glycol, 10 mM dithiothreitol, 10 mM 7-aminocephalosporanic acid, 1 mM EDTA and 1 mM paraaminodiphenylmethanesulfonyl fluoride hydrochloride, to a total volume of 1 liter. The subsequent operation is conducted at 5° C. The above suspension of cells is subjected to ultrasonic treatment and then subjected to centrifugation at 15000 ×g for 10 minutes, to obtain a supernatant fraction as a crude enzyme liquid. It is found that the crude enzyme liquid has a total protein of 22.9 g and a total activity of 25.7 U and a relative activity of 0.001U/mg. [The amount of an enzyme which produces cephalosporin C at a rate of 1 μmole per minute is taken as 1 unit, and the number of units per milligram of the protein contained in the crude cell extract is taken as a DCPC-ATF specific activity.]

reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | dithiothreitol | 10 mM | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | 7-aminocephalosporanic acid | 10 mM | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | phosphate | 50 mM, pH7.0 | P(=O)([O-])([O-])[O-]
product | cephalosporin C | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCC[C@H](C(=O)O)N)SC1)C(=O)O | C16H21N3O8S
